US07199150B2
Subsequently, to a suspension of (2R)-2-amino-2-methyl-4-(1-methylpyrrol-2-yl)butan-1-ol ½ D-(−)tartrate (41.4 mg, 0.16 mmol) obtained above in dichloromethane (1.6 ml) was added successively di-t-butyl dicarbonate (0.1758 g, 0.81 mmol), triethylamine (0.225 ml, 1.62 mmol) and 4-dimethylaminopyridine (2.0 mg, 0.016 mmol) with stirring, and the resulting mixture was stirred at room temperature for 30 minutes. After stirring, water was added to the reaction mixture, and the resulting mixture was evaporated in vacuo. The residue obtained was purified by chromatography on a silica gel column using a mixed solvent of hexane and ethyl acetate (3:2–2:1) as the eluent to afford (4R)-4-methyl-4-[2-(1-methylpyrrol-2-yl)ethyl]-1,3-oxazolidin-2-one (17.7 mg, yield: 53%)

reactant | (2R)-2-amino-2-methyl-4-(1-methylpyrrol-2-yl)butan-1-ol | 0.16 mmol, 41.4 mg | N[C@@](CO)(CCC=1N(C=CC1)C)C | C10H18N2O
reactant | di-t-butyl dicarbonate | 0.81 mmol, 0.1758 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 1.62 mmol, 0.225 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 1.6 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.016 mmol, 2.0 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | (4R)-4-methyl-4-[2-(1-methylpyrrol-2-yl)ethyl]-1,3-oxazolidin-2-one | 17.7 mg, yield: 53% | C[C@@]1(NC(OC1)=O)CCC=1N(C=CC1)C | C11H16N2O2
